US06420563B1
To a freshly prepared solution of potassium thiocyanate (2.14 g, 22 mmol) in dry acetone (80 ml ), thiophene-2-carbonyl chloride (2.93 g, 20 mmol) was added dropwise at room temperature; the reaction mixture was then heated under a reflux for 15 min to give thiophene-2-carbonyl isothiocyanate in situ as a yellow suspension. The heating was stopped and 2-imidazolidinethione (2.04 g, 20 mmol) was added. The mixture was then heated under reflux for an additional 4 hours before being allowed to cool followed by stirring at room temperature overnight (15 hours). 50 ml of water was added and the mixture was further stirred at room temperature for a few minutes. The resulting precipitate was collected by filtration and washed with water, water/methanol (1:1) and methanol to give the compound ARE111 (2.865 g, yield=53%)

reactant | potassium thiocyanate | 22 mmol, 2.14 g | [S-]C#N.[K+]
reactant | thiophene-2-carbonyl chloride | 20 mmol, 2.93 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | thiophene-2-carbonyl isothiocyanate | yield=53% | S1C(=CC=C1)C(=O)N=C=S | C6H3NOS2
